US08703763B2
b) 3-(3,4-Difluorophenyl)-2-isothiocyanato-5-methylpyridine
To a solution of 3-(3,4-difluorophenyl)-5-methylpyridin-2-amine (0.6 g, 2.7 mmol) in dichloromethane (15 mL) was added a solution of sodium bicarbonate (2.3 g, 26.7 mmol) in water (25 mL) followed by a solution of thiophosgene (0.25 mL, 3.2 mmol) in dichloromethane (1 mL) and the mixture stirred for 15 minutes. The phases were separated and the organic phase was dried with sodium sulfate and the solvent was evaporated in vacuo to afford the title compound was obtained as a crystalline yellow solid (0.7 g, 100%).

reactant | 3-(3,4-difluorophenyl)-5-methylpyridin-2-amine | 2.7 mmol, 0.6 g | FC=1C=C(C=CC1F)C=1C(=NC=C(C1)C)N | C12H10F2N2
reactant | sodium bicarbonate | 26.7 mmol, 2.3 g | C([O-])(O)=O.[Na+]
reactant | thiophosgene | 3.2 mmol, 0.25 mL | C(=S)(Cl)Cl | CCl2S
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | water | 25 mL | O | H2O
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 3-(3,4-Difluorophenyl)-2-isothiocyanato-5-methylpyridine | FC=1C=C(C=CC1F)C=1C(=NC=C(C1)C)N=C=S | C13H8F2N2S
